US07902385B2
Synthesis of 4-oxatricyclo[4.2.1.03,7]non-5-yl methacrylate
A mixture of 16 g of 4-oxatricyclo[4.2.1.03,7]non-5-yl acetate, 40 g of methacrylic acid, and 16 mg of 2,2′-methylenebis(6-t-butyl-p-cresol) was heated at 50° C. under atmospheric pressure for 30 minutes, after which under a reduced pressure of 0.20 kPa, the reaction mixture was heated for 18 hours for distilling off the acetic acid formed. The reaction mixture was purified by distillation, obtaining 17 g (yield 91%) of the target compound.

reactant | 4-oxatricyclo[4.2.1.03,7]non-5-yl acetate | 16 g | C(C)(=O)OC1OC2CC3CC2C1C3 | C10H14O3
reactant | methacrylic acid | 40 g | C(C(=C)C)(=O)O | C4H6O2
catalyst | 2,2′-methylenebis(6-t-butyl-p-cresol) | 16 mg | C(C1=CC(=CC(=C1O)C(C)(C)C)C)C1=CC(=CC(=C1O)C(C)(C)C)C | C23H32O2
product | 4-oxatricyclo[4.2.1.03,7]non-5-yl methacrylate | 17 g, yield 91% | C(C(=C)C)(=O)OC1OC2CC3CC2C1C3 | C12H16O3
